US05183804
The Boc group of product (XIII) was removed by the same method as described in regard to compound (XI) to give 0.40 g (0.63 mmol) of HCl.H-Gly-Ser(Bzl)-Arg(Mts)-OMe. It was then dissolved in a mixed solvent of 5.4 ml of rectified DMF and 5.4 ml of dioxane together with the equimolar amount (0.14 g) of Boc-Ile-OH. The resulting solution was stirred at 0° C. for 10 minutes and then 0.21 ml of DPPA and 0.20 ml of triethylamine were added. The mixture was stirred at room temperature for 24 hours. The solution thus obtained was freed from any acidic and alkaline materials in the same manner as described in regard to compounds (XII) and (XIII). After drying, 0.28 g of Boc-Ile-Gly-Ser(Bzl)-Arg(Mts)-OMe was obtained.

reactant | H-Gly-Ser(Bzl)-Arg(Mts)-OMe | NCC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=C(C)C=C1C)=N)C(=O)OC | C28H40N6O7S
reactant | Boc-Ile-OH | 0.14 g | N([C@@H]([C@@H](C)CC)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
reactant | DPPA | 0.21 ml | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.20 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 5.4 ml | CN(C)C=O | C3H7NO
solvent | dioxane | 5.4 ml | O1CCOCC1 | C4H8O2
product | Boc-Ile-Gly-Ser(Bzl)-Arg(Mts)-OMe | 0.28 g | N([C@@H]([C@@H](C)CC)C(=O)NCC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=C(C)C=C1C)=N)C(=O)OC)C(=O)OC(C)(C)C | C39H59N7O10S
